US07037916B2
Quinoline-3-nitrile (1.0 g) was dissolved in diethyl ether (30 mL) and treated with lithium bis(trimethylsilyl)amide (1.0 M in THF, 13 mL). The reaction was stirred for 3 hours, then washed 3 times with 1 N HCl (50 mL). The combined aqueous washes were neutralized with 6 N NaOH and extracted 6 times with ethyl acetate (50 mL). The ethyl acetate extractions were dried over sodium sulfate and the solvent was evaporated to provide 0.63 g of quinoline-3-carboxamidine.

reactant | Quinoline-3-nitrile | 1.0 g | N1=CC(=CC2=CC=CC=C12)C#N | C10H6N2
reactant | lithium bis(trimethylsilyl)amide | 1.0 M, 13 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
solvent | diethyl ether | 30 mL | C(C)OCC | C4H10O
product | quinoline-3-carboxamidine | 0.63 g | N1=CC(=CC2=CC=CC=C12)C(=N)N | C10H9N3
